US07319104B2
2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](5-propylpyrimidin-2-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid
Condensation of methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate (250 mg; 0.54 mmol) with 2-chloro-5-propyl-pyrimidine (85 mg; 0.54 mmol) as per general procedure E (1.25 eq. K2CO3, dioxane, 220C, 15 hr) was accompanied by partial ester hydrolysis and afforded the title compound in low yield. For ease of purification, the carboxylic acid was converted to its methyl ester derivative (using a standard trimethylsilyldiazomethane/MeOH protocol), chromatographed and subjected to the base-mediated hydrolysis procedure H to afford the title compound in 17% yield (29 mg).

reactant | methyl 2-[4-(2-{[2,4-bis(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | 0.54 mmol, 250 mg | FC(C1=C(CNCCC2=CC=C(OC(C(=O)OC)(C)C)C=C2)C=CC(=C1)C(F)(F)F)(F)F | C22H23F6NO3
reactant | 2-chloro-5-propyl-pyrimidine | 0.54 mmol, 85 mg | ClC1=NC=C(C=N1)CCC | C7H9ClN2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-{2-[[2,4-Bis(trifluoromethyl)benzyl](5-propylpyrimidin-2-yl)amino]ethyl}phenoxy)-2-methylpropanoic acid | FC(C1=C(CN(CCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C2=NC=C(C=N2)CCC)C=CC(=C1)C(F)(F)F)(F)F | C28H29F6N3O3
